US04604486
After 0.63 ml (0.63 mmol) of diethylaluminum chloride (hexane 1M solution) were added to a dried methylene chloride (3 ml) solution of 89.7 mg (0.24 mmol) of (S)-2-methanesulfonyloxy-3-octyl-3-undecanol (unrefined) at -78° C. under stirring, and stirred for two and a half hours at -78° C., the temperature was raised to 0° C. over an hour and a half. The reaction was stopped with three drops of phosphoric acid buffer solution (pH 7). The resultant suspension was diluted with ethyl acetate, dried with anhydrous sodium sulfate, filtered and concentrated. The oily residue was separated and refined by the use of silica gel column chromatography (hexane/ethyl acetate=35/1) to obtain (S)-10-methyl-9-octadecanone as a colorless oily substance (60.5 mg, yield 90%).

reactant | diethylaluminum chloride | 0.63 mmol, 1M, 0.63 ml | [Cl-].C(C)[Al+]CC
reactant | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
reactant | (S)-2-methanesulfonyloxy-3-octyl-3-undecanol | 0.24 mmol, 89.7 mg | CS(=O)(=O)O[C@@H](C)C(CCCCCCCC)(O)CCCCCCCC | C20H42O4S
catalyst | phosphoric acid | three drops, pH 7 | P(O)(O)(O)=O | H3O4P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-10-methyl-9-octadecanone | yield 90% | C[C@H](C(CCCCCCCC)=O)CCCCCCCC | C19H38O
